US04758614
N,N-Dibenzyl-O-carbamylhydroxylamine
A stirred suspension of 10.70 g of N,N-dibenzylhydroxylamine in 25 ml of methanol is admixed dropwise with a solution of 4.53 ml conc. hydrochloric acid in 10 ml of water. A solution of 4.06 g of potassium cyanate in 15 ml of water is then added and the resulting suspension is stirred at room temperature for 3 hours. The crude product is removed by filtration and further purified by liquid chromatography to afford the title compound as a white solid; m.p. 127°-29° C.

reactant | N,N-dibenzylhydroxylamine | 10.70 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | hydrochloric acid | 4.53 ml | Cl | ClH
reactant | potassium cyanate | 4.06 g | [O-]C#N.[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | N,N-Dibenzyl-O-carbamylhydroxylamine | C(C1=CC=CC=C1)N(OC(N)=O)CC1=CC=CC=C1 | C15H16N2O2
